*Ideal Centre-Tapped Transformer Subcircuit Parameters
*NP = Number of turns on the primary coil
*NS1 = Number of turns on the first secondary coil
*NS2 = Number of turns on the second secondary coil
*
*dw 6/8/99: created
*
*Connections:
*                    Pri+
*                    | Pri-
*                    | | Sec+
*                    | | | SecCT
*                    | | | | Sec-
*                    | | | | |
.SUBCKT IDEALTRANSCT 1 2 3 4 5 PARAMS: NP=1 NS1=1 NS2=1
BP  1 2 I=( (-I(BS1)*{NS1} -I(BS2)*{NS2})/{NP} )
BS1 3 4 V=( V(1,2)*{NS1}/{NP} )
BS2 4 5 V=( V(1,2)*{NS2}/{NP} )
.ENDS IDEALTRANSCT